### PR TITLE
[Merged by Bors] - chore(RingTheory): golf entire `smul_eq_zero_of_mem`, `hasEval`, `eq_of_prod_eq_prod` and `isIntegral_of_mem_ringOfIntegers`

### PR DESCRIPTION
**Pull request by euprunin**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/UniqueFactorizationDomain/FactorSet.lean [hunk 1]
```diff
@@ -259,9 +259,8 @@ theorem eq_of_factors_eq_factors {a b : Associates α} (h : a.factors = b.factor
   have : a.factors.prod = b.factors.prod := by rw [h]
   rwa [factors_prod, factors_prod] at this
 
-theorem eq_of_prod_eq_prod [Nontrivial α] {a b : FactorSet α} (h : a.prod = b.prod) : a = b := by
-  have : a.prod.factors = b.prod.factors := by rw [h]
-  rwa [prod_factors, prod_factors] at this
+theorem eq_of_prod_eq_prod [Nontrivial α] {a b : FactorSet α} (h : a.prod = b.prod) : a = b :=
+  FactorSet.unique h
```
Comment (erdOne) [inline Mathlib/RingTheory/UniqueFactorizationDomain/FactorSet.lean]: I think we should just turn it into an alias near `FactorSet.unique`. Or just rename `FactorSet.unique` to `eq_of_prod_eq_prod` and remove this.

**Review by erdOne — APPROVED** [review]
Sorry for dropping the ball on this. This PR looks basically good to go except a minor comment.

File: Mathlib/RingTheory/UniqueFactorizationDomain/FactorSet.lean (hunk 1 above)
Comment (euprunin) [reply Mathlib/RingTheory/UniqueFactorizationDomain/FactorSet.lean]: Thanks a lot for reviewing @erdOne! Now deprecating `eq_of_prod_eq_prod`.

**Review by erdOne — APPROVED** [review]
Thanks!
maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
